US04734406
0.3 g (1 mmol) of methyl 6-[1-hydroxy-1-(3-pyridyl)ethyl]-2-naphthoate and 0.68 g (2.6 mmol) of triphenylphosphine in 3 ml of tetrachloromethane are heated under reflux for 9 hours. After evaporation, the residue is taken up in 4 N HCL, and triphenylphosphine and triphenylphosphine oxide are extracted with ethyl acetate. The aqueous phase is then neutralized with sodium bicarbonate. After extraction with ethyl acetate, and drying and evaporation of the ethyl acetate phase in vacuo, 0.25 g (86%) of methyl 6-[1-(3-pyridyl)ethenyl]-2-naphthoate is obtained as an oil. RF (ethyl acetate/methanol 8:1): 0.59. 1H-NMR (CDCl3, 60 MHz) δ=4.0 (2, 3H; CH3), 5.7 (d, 2H; C=CH2), 7.0-8.7 (m, 10H; arom. H).

reactant | methyl 6-[1-hydroxy-1-(3-pyridyl)ethyl]-2-naphthoate | 1 mmol, 0.3 g | OC(C)(C=1C=NC=CC1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C19H17NO3
reactant | triphenylphosphine | 2.6 mmol, 0.68 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrachloromethane | 3 ml | ClC(Cl)(Cl)Cl | CCl4
product | methyl 6-[1-(3-pyridyl)ethenyl]-2-naphthoate | 0.25 g, 86% | N1=CC(=CC=C1)C(=C)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C19H15NO2
